US08492582B2
Potassium carbonate (0.12 g) was added to a solution mixture of the obtained tert-butyl 2-(2-acetoxy-4-chlorobenzamido)-4-phenylbenzoate (0.13 g) in methanol (2.5 mL) and dioxane (2.5 mL), followed by stirring at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and a 10% aqueous solution of citric acid and ethyl acetate were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 0.11 of tert-butyl 2-(4-chloro-2-hydroxybenzamido)-4-phenylbenzoate as a white solid.

reactant | Potassium carbonate | 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 2-(2-acetoxy-4-chlorobenzamido)-4-phenylbenzoate | 0.13 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)Cl | C26H24ClNO5
solvent | methanol | 2.5 mL | CO | CH4O
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 2-(4-chloro-2-hydroxybenzamido)-4-phenylbenzoate | ClC1=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C1)O | C24H22ClNO4
